US05294623
1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbaldehyde
420 mg of 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-methoxymethylidenepiperidine (prepared as described in Preparation 5) were added to a mixture of 1.5 ml of 10% w/v aqueous hydrochloric acid and 3 ml of tetrahydrofuran, and the resulting mixture Was then stirred for 2 hours at room temperature. At the end of this time, water was added to the reaction mixture, and it was neutralized by the addition of a 5% w/v aqueous solution of sodium hydroxide and extracted with ethyl acetate. The extract was purified by silica gel column chromatography. Elution with 3% by volume methanol in methylene chloride afforded 434 mg (a quantitative yield) of the title compound as an oil, whose properties were the same as those of the product of step (a).

reactant | 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-methoxymethylidenepiperidine | 420 mg | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)=COC)C1=CC=C(C=C1)F | C22H25F2NO2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbaldehyde | quantitative yield | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C=O)C1=CC=C(C=C1)F | C21H23F2NO2
